US04684528
(a) Preparation of Zinc L-Leucine Complex
Anhydrous L-leucine, 5.2472 g, 0.0400 mole, was dissolved in 30 ml of deionized water and heated to 120° F. Ultra-pure zinc acetate dihydrate, Zn(C2H3O2)2.2H2O , 4.3900 g, 0.0200 mole, was added in small increments over one hour, with stirring. The solution did not clear, so another 20 ml of water was added and the mixture was heated in a boiling water bath to 190° F. for an additional 21/2 hours. Water was then added to a total volume of 75 ml, the mixture heated again to 190° F., and gravity filtered. The retained solid was dried at 150° F. for 12 hours, found to weigh 2.717 g, and was analyzed.

reactant | L-leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | zinc acetate dihydrate | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | water | 30 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | Zinc L-Leucine | N[C@@H](CC(C)C)C(=O)O.[Zn] | InChI=1S/C6H13NO2.Zn/c1-4(2)3-5(7)6(8)9;/h4-5H,3,7H2,1-2H3,(H,8,9);/t5-;/m0./s1
